US05705502
100 mg (0.293 mmol) of N-(3-trifluoromethyl-phenyl)-4-(2-cyano-4-pyridyl)-2-pyrimidineamine are suspended in 4 ml of methanol. 1.1 ml of hydrogen peroxide (30%), 0.32 ml of 1-hexene and 22 mg of sodium carbonate are added and the reaction mixture is stirred for 16 hours at RT. The product is isolated by filtration and washed (methanol/water) to give N-(3-trifluoromethyl-phenyl)-4-(2-carbamoyl-4-pyridyl)-2-pyrimidineamine; m.p. 240°-242°, FAB-MS: 360 (M+ +H).

reactant | N-(3-trifluoromethyl-phenyl)-4-(2-cyano-4-pyridyl)-2-pyrimidineamine | 0.293 mmol, 100 mg | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C#N)(F)F | C17H10F3N5
reactant | hydrogen peroxide | 1.1 ml | OO | H2O2
reactant | 1-hexene | 0.32 ml | C=CCCCC | C6H12
reactant | sodium carbonate | 22 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | N-(3-trifluoromethyl-phenyl)-4-(2-carbamoyl-4-pyridyl)-2-pyrimidineamine | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C(N)=O)(F)F | C17H12F3N5O
